US07612078B2
4,6-Dichloro-5-(4-fluorophenyl)thieno[2,3-d]pyrimidine
To a solution of 4-chloro-5-(4-fluorophenyl)thieno[2,3-d]pyrimidine (1 g, 4.06 mmol) in acetic acid (15 mL), N-chlorosuccinimide (1.08 g, 8.1 m. mol) was added and the mixture was stirred at 90° C. for 2 h. The solvent was evaporated under reduced pressure and the residue was dissolved in ethyl acetate (30 mL) and washed with sat. NaHCO3 solution (3×20 mL). The organic layer was dried over sodium sulfate and evaporated. The crude product was purified by column chromatography to get the title product (200 mg, 16%) as pale yellow solid. 1H NMR (400 MHz, CDCl3 and CDCl3): δ 8.85 (s, 1H), 7.35 (m, 2H), 7.20 (m, 2H). MS (ESI) m/z: Calculated: 297.95; Observed: 299.2 (M++1).

reactant | 4-chloro-5-(4-fluorophenyl)thieno[2,3-d]pyrimidine | 4.06 mmol, 1 g | ClC=1C2=C(N=CN1)SC=C2C2=CC=C(C=C2)F | C12H6ClFN2S
reactant | N-chlorosuccinimide | 1.08 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
product | 4,6-Dichloro-5-(4-fluorophenyl)thieno[2,3-d]pyrimidine | 200 mg, 16% | ClC=1C2=C(N=CN1)SC(=C2C2=CC=C(C=C2)F)Cl | C12H5Cl2FN2S
